US06294532B1
5.1 M Ammonia in methanol (30 ml) was added to a solution of 6-methoxy-3-((pivaloyloxy)methyl)-7-(2-(1,2,3-triazol-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (1.4 g, 3.5 mmol) in a solution of methanol (30 ml). After stirring overnight at ambient temperature, the volatiles were removed by evaporation and the residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 6-methoxy-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinazoline (946 mg, 92%).

reactant | Ammonia | 5.1 M | N | H3N
reactant | 6-methoxy-3-((pivaloyloxy)methyl)-7-(2-(1,2,3-triazol-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 3.5 mmol, 1.4 g | COC=1C=C2C(N(C=NC2=CC1OCCN1N=NC=C1)COC(C(C)(C)C)=O)=O | C19H23N5O5
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 6-methoxy-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinazoline | 946 mg, 92% | COC=1C=C2C=NC=NC2=CC1OCCN1N=NC=C1 | C13H13N5O2
